US04399134
In a 50 ml flask were placed 2.5 g of 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid, 6.4 g of 4-benzylpiperidine and 25 ml of hexamethylphosphoric triamide and the mixture was stirred at 160° C. in an argon gas atmosphere for 7 hours. After disappearance of the starting materials was confirmed by thin layer chromatography, hexamethylphosphoric triamide was removed using a vacuum pump followed by cooling to room temperature. To the residue was added ethyl acetate and then several drops of concentrated hydrochloric acid and the mixture was allowed to stand in a refrigerator for 1 day. The crystals which formed were collected by filtration and recrystallized from dimethylformamide to give 0.45 g of 9-fluoro-8-(4-benzyl-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid. m.p. 230°-232° C., white rhombic crystals.

reactant | 9-fluoro-8-bromo-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 2.5 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)Br | C14H11BrFNO3
reactant | 4-benzylpiperidine | 6.4 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | hexamethylphosphoric triamide | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
solvent | hexamethylphosphoric triamide | 25 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 9-fluoro-8-(4-benzyl-1-piperidyl)-5-methyl-6,7-dihydro-1-oxo-1H,5H-benzo[ij]quinolizine-2-carboxylic acid | 0.45 g | FC1=C(C=2CCC(N3C=C(C(C(C23)=C1)=O)C(=O)O)C)N1CCC(CC1)CC1=CC=CC=C1 | C26H27FN2O3
